US08012982B2
Step 3: isobutyl 4-(4-{[(4-hydroxyphenyl)amino]carbonyl}phenyl)piperazine-1-carboxylate
2 eq of isobutyl-chloroformate and 3.5 eq of Et3N were added to a solution of 4-[4-({[4-(acetyloxy)phenyl]amino}carbonyl)phenyl]piperazin-1-ium trifluoroacetate in dry THF (0.05 M) and the solution was allowed to stir at RT for 3 h under N2. PS-trisamine resin (excess) was added and the reaction mixture was stirred for 16 h. The resin and a white precipitate were filtered off. Excess aqueous NaOH (1 M) was added to the organic solution and the reaction mixture was stirred for 2 h. The organic solvent was removed in vacuo and aqueous HCl (1 M) was added until precipitation of a white solid that was filtered off, washed and dried in vacuo to afford the title compound (90%).

reactant | isobutyl-chloroformate | 2 eq | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | Et3N | 3.5 eq | CCN(CC)CC | C6H15N
reactant | 4-[4-({[4-(acetyloxy)phenyl]amino}carbonyl)phenyl]piperazin-1-ium trifluoroacetate | FC(C(=O)[O-])(F)F.C(C)(=O)OC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)N1CC[NH2+]CC1
reactant | trisamine | C(C(CO)(CO)N)O | C4H11NO3
solvent | THF | 0.05 M | C1CCOC1 | C4H8O
product | isobutyl 4-(4-{[(4-hydroxyphenyl)amino]carbonyl}phenyl)piperazine-1-carboxylate | 90% | OC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OCC(C)C | C22H27N3O4
